US04939241
A solution of benzyl trifluoroacetyl-L-serinate (500 mg) and diketene (0.1 ml) in tetrahydrofuran (10 ml) was heated with reflux overnight. The solvent was distilled off and the residue was diluted with ethyl acetate and washed successively with water and brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated. The residue was chromatographed on silica gel eluting successively with methylene chloride and a 4:1 mixture of methylene chloride and acetone to give benzyl O-acetoacetyl-N-trifluoroacetyl-L-serinate (320 mg).

reactant | benzyl trifluoroacetyl-L-serinate | 500 mg | FC(C(=O)N[C@@H](CO)C(=O)OCC1=CC=CC=C1)(F)F | C12H12F3NO4
reactant | diketene | 0.1 ml | C=C1CC(=O)O1 | C4H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzyl O-acetoacetyl-N-trifluoroacetyl-L-serinate | 320 mg | C(CC(=O)C)(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C16H16F3NO6
